US07915261B2
Under ice cooling, di-tert-butyl dicarbonate (2.6 g) was added to a dichloromethane (50 ml) solution of 4,4′-(1,3-propane-diyl)dipiperidine (5.0 g), followed by stirring overnight at room temperature. The reaction liquid was diluted with chloroform, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (eluent: chloroform:methanol:aqueous concentrated ammonia=4:1:0.1 (v/v)) to obtain tert-butyl 4-[3-(4-piperidinyl)propyl]-1-piperidinecarboxylate (2.2 g).

reactant | di-tert-butyl dicarbonate | 2.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | 4,4′-(1,3-propane-diyl)dipiperidine | 5.0 g | C(CCC1CCNCC1)C1CCNCC1 | C13H26N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 4-[3-(4-piperidinyl)propyl]-1-piperidinecarboxylate | 2.2 g | N1CCC(CC1)CCCC1CCN(CC1)C(=O)OC(C)(C)C | C18H34N2O2
